US07335658B2
6-[4-(1-TRIFLUOROMETHYLCYCLOPROPANECARBONYL)PIPERAZIN-1-YL]-PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE
Following the procedure of Example 9, making variations only as required to use 1-trifluoromethylcyclopropanecarboxylic acid to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (3-methylbutyl)amide, the title compound was obtained as a white powder (72% yield). 1H NMR (300 MHz, CDCl3) δ 8.05, 7.83, 6.98, 3.90-3.80, 3.48, 1.66, 1.48, 1.39-1.35, 1.18-1.14, 0.92. MS (ES+) m/z 414.2 (M+1).

reactant | 1-trifluoromethylcyclopropanecarboxylic acid | FC(C1(CC1)C(=O)O)(F)F | C5H5F3O2
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (3-methylbutyl)amide | CC(CCNC(=O)C=1N=NC(=CC1)N1CCNCC1)C | C14H23N5O
product | 6-[4-(1-TRIFLUOROMETHYLCYCLOPROPANECARBONYL)PIPERAZIN-1-YL]-PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE | CC(CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(=O)C1(CC1)C(F)(F)F)C | C19H26F3N5O2
